US07723381B2
9H-fluoren-9-ylmethyl[4-(2-bromoacetyl)cyclohexyl]carbamate:
7.77 g (21 mmol) of 9H-fluoren-9-ylmethyl(4-acetylcyclohexyl)carbamate (cis compound) is dissolved in 100 mL of methanol at ambient temperature and combined with 1.09 mL (21 mmol) of bromine. The mixture is stirred for 16 hours at ambient temperature, cooled, and the crystals precipitated are suction filtered. Yield: 6.35 g (50%); NMR: LG201641.

reactant | 9H-fluoren-9-ylmethyl(4-acetylcyclohexyl)carbamate | 21 mmol, 7.77 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC1CCC(CC1)C(C)=O)=O | C23H25NO3
reactant | bromine | 21 mmol, 1.09 mL | BrBr | Br2
solvent | methanol | 100 mL | CO | CH4O
product | 9H-fluoren-9-ylmethyl[4-(2-bromoacetyl)cyclohexyl]carbamate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC1CCC(CC1)C(CBr)=O)=O | C23H24BrNO3
